US08039472B2
2-{4-[2-(4-Fluoro-phenyl)-ethoxy]-phenyl}-ethylamine
2 N NaOH solution (45.2 ml, 90.3 mmol) is added to a solution of {4-[2-(4-Fluoro-phenyl)-ethoxy]-phenyl}-acetonitrile (3.29 g, 12.9 mmol) in EtOH (45.2 mol) followed by Al—Ni Alloy (2.5 g) and the resulting reaction mixture is stirred for 1 hour at room temperature. The reaction mixture is filtered and the EtOH removed in vacuo. The product is extracted into DCM (2×80 ml), dried (MgSO4) and the solvent removed in vacuo to yield the title compound as a yellow oil.

reactant | NaOH | 90.3 mmol, 2 N, 45.2 ml | [OH-].[Na+]
reactant | {4-[2-(4-Fluoro-phenyl)-ethoxy]-phenyl}-acetonitrile | 12.9 mmol, 3.29 g | FC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC#N | C16H14FNO
reactant | EtOH | 45.2 mol | CCO | C2H6O
product | 2-{4-[2-(4-Fluoro-phenyl)-ethoxy]-phenyl}-ethylamine | FC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CCN | C16H18FNO
